US04544562
6.0 g (29.5 millimoles) of 6-(p-aminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone and 3.9 g (35.9 millimoles) of methoxyacetyl chloride in 150 ml of absolute tetrahydrofuran were refluxed for 2 hours, while stirring. The product was filtered off under suction at 10° C., washed with water and recrystallized from dimethylformamide/water. 3.6 g (44%) of 6-[p-(methoxyacetylamino)-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone were obtained as colorless crystals. Mp.: 212° C.

reactant | 6-(p-aminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 29.5 millimoles, 6.0 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
reactant | methoxyacetyl chloride | 35.9 millimoles, 3.9 g | COCC(=O)Cl | C3H5ClO2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 6-[p-(methoxyacetylamino)-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 3.6 g, 44% | COCC(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C14H17N3O3
